US07211586B2
2-Amino-3-[2-(2,6-dichloro-benzoyl]-1,2,3,4-tetrahydro-isoquinolin-7-yl]-propionic acid methyl ester
A solution of 2-tert-butyloxycarbonylamino-3-[2-(2,6-dichloro-benzoyl]-1,2,3,4-tetrahydro-isoquinolin-7-yl]-propionic acid methyl ester {1.7 g, Reference Example 9(b)} in a mixture of trifluoroacetic acid (10 mL) and dichloromethane (30 mL), under nitrogen, was stirred at room temperature for 1.5 hours then evaporated. The residue was dissolved in dichloromethane and this solution was washed with aqueous sodium bicarbonate solution, then with water, then dried over magnesium sulfate and then evaporated to give the title compound (1.18 g) which was used without further purification.

reactant | 2-tert-butyloxycarbonylamino-3-[2-(2,6-dichloro-benzoyl]-1,2,3,4-tetrahydro-isoquinolin-7-yl]-propionic acid methyl ester | 1.7 g | COC(C(CC1=CC=C2CCN(CC2=C1)C(C1=C(C=CC=C1Cl)Cl)=O)NC(=O)OC(C)(C)C)=O | C25H28Cl2N2O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-Amino-3-[2-(2,6-dichloro-benzoyl]-1,2,3,4-tetrahydro-isoquinolin-7-yl]-propionic acid methyl ester | 1.18 g | COC(C(CC1=CC=C2CCN(CC2=C1)C(C1=C(C=CC=C1Cl)Cl)=O)N)=O | C20H20Cl2N2O3
